US07273877B2
2-Fluoro-4-(1,1,2,2,3,3,4,4,4-nonafluorobutyl) aniline and ethyl 4,6-dichloronicotinate were reacted in a mixture of EtOH and conc. HCl for 36 h as for example 33, step A. The resultant solid was purified by flash chromatography on silica gel (Hexane—10% EtOAc/Hexane gradient elution) to give ethyl 6-chloro-4-[2-fluoro-4-(1,1,2,2,3,3,4,4,4-nonafluorobutyl)anilino]nicotinate (30%). 1H NMR [400 MHz, CDCl3] δ 10.11 (br s, 1H), 8.86 (s, 1H), 7.57 (t, J=8.0 Hz, 1H), 7.46 (d, J=9.7 Hz, 2H), 6.98 (d, J=0.7 Hz, 1H), 4.44 (q, J=7.1 Hz, 2H), 1.44 (t, J=7.1 Hz, 3H).

reactant | 2-Fluoro-4-(1,1,2,2,3,3,4,4,4-nonafluorobutyl) aniline | FC1=C(N)C=CC(=C1)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C10H5F10N
reactant | ethyl 4,6-dichloronicotinate | ClC1=CC(=NC=C1C(=O)OCC)Cl | C8H7Cl2NO2
reactant | HCl | Cl | ClH
solvent | EtOH | CCO | C2H6O
product | ethyl 6-chloro-4-[2-fluoro-4-(1,1,2,2,3,3,4,4,4-nonafluorobutyl)anilino]nicotinate | 30% | ClC1=NC=C(C(=O)OCC)C(=C1)NC1=C(C=C(C=C1)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)F | C18H11ClF10N2O2
